US03956260
14. BOC-Cys(Bzl)-Ser-Asn-Leu-Ser-Thr-OH
5.3 g (13 mmols) of BOC-Cys(Bzl)-OSU and 7.4 g (10 mmols) of H-Ser-Asn-Leu-Ser-Thr-OH, 1.93TFA are dissolved in 75 ml of dimethylformamide. From a solution of 150 mmols of triethylamine in 100 ml of dimethylformamide, 18.1 ml (27.2 mmols) are added dropwise while stirring until the reaction mixture shows a pH of 6.4 on moist indicator paper. The solution is stirred for 3 days at room temperature, then evaporated to dryness in a high vacuum. The residue is stirred twice with 250 ml of ethyl acetate and three times with a mixture of 100 ml of ethyl acetate and 20 ml of 5% citric acid solution, filtered, and dried at 40°C under reduced pressure. Melting point: 184°-185°C; [α]D20 -13° (c = 2 in dimethylformamide); Rf6 = 0.45.

reactant | BOC-Cys(Bzl)-OSU | 13 mmols, 5.3 g | CC(C)(C)OC(=O)N[C@@H](CSCC1=CC=CC=C1)C(=O)ON2C(=O)CCC2=O | C19H24N2O6S
reactant | H-Ser-Asn-Leu-Ser-Thr-OH | 10 mmols, 7.4 g | N[C@@H](CO)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CO)C(=O)N[C@@H]([C@H](O)C)C(=O)O | C20H36N6O10
reactant | triethylamine | 150 mmols | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | BOC-Cys(Bzl)-Ser-Asn-Leu-Ser-Thr-OH | N([C@@H](CSCC1=CC=CC=C1)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CO)C(=O)N[C@@H]([C@H](O)C)C(=O)O)C(=O)OC(C)(C)C | C35H55N7O13S
